US07132425B2
A solution of molten acetamide (1.58 g, 26.7 mmol) heated to 90° C. was treated with a mixture of 2-bromo-5-nitropyrazine (1.34 g, 6.58 mmol), methanesulfonamide (1.88 g, 19.7 mmol), and potassium carbonate (2.30 g, 16.6 mmol). The resulting mixture was quickly brought to 145° C. The resulting solution was stirred at 145° C. for 30 min. At this time, the reaction was cooled to 25° C. and then was treated with water (4 mL). This solution was cooled to 0° C. and then was treated with a 1N aqueous hydrochloric acid solution until the pH of the solution was adjusted to pH=8. This solution was treated with charcoal and was filtered through a pad of celite (9/1 methylene chloride/methanol wash). The filtrate was partitioned, and the aqueous layer was extracted with a solution of 9/1 methylene chloride/methanol. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, ethyl acetate) afforded N-(5-nitro-pyrazin-2-yl)-methanesulfonamide (583.9 mg, 40.6%) as a yellow solid: mp 204–207° C.; EI-HRMS m/e calcd for C5H6N4O4S (M+H)+ 219.0183, found 219.0185.

reactant | acetamide | 26.7 mmol, 1.58 g | C(C)(=O)N | C2H5NO
reactant | 2-bromo-5-nitropyrazine | 6.58 mmol, 1.34 g | BrC1=NC=C(N=C1)[N+](=O)[O-] | C4H2BrN3O2
reactant | methanesulfonamide | 19.7 mmol, 1.88 g | CS(=O)(=O)N | CH5NO2S
reactant | potassium carbonate | 16.6 mmol, 2.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | charcoal | C | CH4
solvent | water | 4 mL | O | H2O
product | N-(5-nitro-pyrazin-2-yl)-methanesulfonamide | 583.9 mg, 40.6% | [N+](=O)([O-])C=1N=CC(=NC1)NS(=O)(=O)C | C5H6N4O4S
